US07714126B2
With a procedure similar to example 16 above, 1-phenyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide was prepared from 1-phenyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid and N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C20H20F3N5O2 (m/e) 419, obsd 420 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 1-phenyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid | C1(=CC=CC=C1)N1N=C(C(=C1)C(=O)O)C(F)(F)F | C11H7F3N2O2
reactant | N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine | COCCN(C1=NC=C(C=C1)N)C | C9H15N3O
product | 1-phenyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | COCCN(C1=CC=C(C=N1)NC(=O)C=1C(=NN(C1)C1=CC=CC=C1)C(F)(F)F)C | C20H20F3N5O2
